Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Everything sounds insulting...Is my private information being
released to people on the street?!"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
According to admission interview by Dr. ___: 
"
In short, ___ ___ female with past medical history of
OCD, MDD, and hernia s/p repair. She was sent by ambulance for
psychiatric evaluation after she presented to the ___ HR to 
submit
her resignation. She was noted to be acting strangely and 
talking
to herself at work. Patient's initial presentation was 
concerning
for catatonia that responded to Ativan PO. Interview in the ED
was notable for disorganized history, delusional content, and
racing thoughts in the setting of work-related stress, with
symptoms severe enough to cause significant distress and
inability to function.

In personal interview on the unit, Ms. ___ explained that she 
was
noticing people on the street talking about her. E.g., she
noticed that while "walking up and down on the ___".
She said:"I feel like people are talking about me...they talk
about my thoughts".
When asked about duration of her experiences, she started to 
tell
convoluted story how she was assisting ___" preparing
her slides for her research presentation. Pt started provide
minute details how she was recommending ___ to remove some
names from the slide acknowledging coworkers. Then, Ms. ___
started to talk about her PI or supervisor. In short, she 
somehow
connected her distressing experiences to her work in the lab and
interactions with coworkers.

Eventually, Ms. ___ reported that she has been "stressed" for ___
weeks. She said she has been feeling that "something is up". She
admitted feeling overwhelmed. She reported that her sleep was
more superficial which she ascribed to sleeping in the living
room in her apartment that she shares with her roommate. She
formally denied A/V/H. She formally denied suicidal thoughts.
However, she was unable to state her plans for future and any
protective factors helping her to move forward with her life. 
She
appears helpless and hopeless.

Re. past psychiatric hx, she reported hx of depression and being
treated by Dr. ___ in the ___. She took
Zoloft and Abilify."
 
Past Medical History:
Re. past psychiatric hx, she reported hx of depression and being 
 treated by Dr. ___ in the ___. She took 
Zoloft and Abilify." She has never been psychiatrically 
hospitalized and has never attempted suicide nor does she have 
hx of self-injury.

Re. PMH, hx of hearnia. Pt clearly denied any hx of seizures.
On medical ROS, she denied pain/N/V/D/C/fever/chills. Pt shared
that she has been feeling "dizzy" (possibly ___ decreased PO
intake).
Substance hx non contributory.

 
Social History:
___
Family History:
- Uncle with intellectual disability
- No known family history of mental illness, substance use, or
suicide attempts
 
Physical Exam:
Admission Physical Exam

VITAL SIGNS:
___ 1446 Temp: 97.9 PO BP: 122/81 HR: 79 RR: 15 O2 sat: 95% 


EXAM:

General: no acute distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Discharge MSE:
Appearance: Age-appearing female dressed casually, fair hygiene
Behavior: Appropriately anxious about discharge and appointments 
related to employment/visa status, cooperative and friendly with 
interview, no PMR/PMA
Speech: normal rate/rhythm/tone/volume
Mood: "Good"
Affect: More reactive, smiling and laughing, fairly euthymic
Thought process: Mostly linear, goal-directed, though needs to 
stop and gather her thoughts occasionally [though this may also 
be due to language barrier]
Thought content: Denies SI/HI/AVH
Insight/judgment: Fair/fair 
 
Pertinent Results:
___ 07:10AM BLOOD WBC-5.3 RBC-4.19 Hgb-13.1 Hct-38.8 MCV-93 
MCH-31.3 MCHC-33.8 RDW-11.4 RDWSD-38.8 Plt ___
___ 07:10AM BLOOD Glucose-76 UreaN-11 Creat-0.8 Na-143 
K-4.2 Cl-106 HCO3-23 AnGap-14
___ 05:55PM BLOOD ALT-10 AST-15 LD(LDH)-183 AlkPhos-42 
TotBili-0.6
___ 07:10AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.1 Cholest-189
___ 05:55PM BLOOD Albumin-5.2
___ 07:10AM BLOOD %HbA1c-5.0 eAG-97
___ 07:10AM BLOOD Triglyc-41 HDL-62 CHOL/HD-3.0 LDLcalc-119
___ 05:55PM BLOOD TSH-1.7
___ 07:10AM BLOOD PTH-30
___ 07:10AM BLOOD 25VitD-25*
___ 05:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
The patient was admitted on a section 12b which expired on 
___ she later signed a conditional voluntary agreement on 
___. She was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted. She did not require physical or 
chemical restraints during this hospitalization. 
 
2. PSYCHIATRIC:
#) Unspecified psychosis with catatonia [resolved]
On initial presentation to the ED, the patient demonstrated some 
signs suggestive of catatonia; she was minimally verbal, 
staring, with noted automatic obedience. She was treated with 
olanzapine and lorazepam. This was continued on the inpatient 
unit; once on the unit, the patient was observed to be more 
verbal and interactive, with lower suspicion for catatonia. 
Initial presentation was notable for the patient's ongoing 
paranoia and ideas of reference and subsequent anxiety regarding 
the existence of these symptoms, with notable exam findings of 
thought blocking, paranoia, and frequent episodes of crying that 
limited evaluation. 

It appears that this is her first episode of psychotic symptoms; 
there is no indication for prior substance use that could be 
contributing to this presentation. From a statistical 
standpoint, she is a high risk for recurrence of psychotic 
symptoms vs. a singular episode of psychosis. 

During initial days of hospitalization, she was noted to have 
quite reactive affect, frequently observed crying and appearing 
overwhelmed. 

Olanzapine and lorazepam were titrated on the inpatient unit, 
with moderate improvement in psychosis and anxiety symptoms. She 
appeared brighter, less thought-disordered, and less paranoid. 
She was more appropriate and did not appear as overwhelmed 
during latter parts of the hospital course. On days leading to 
discharge, Ms. ___ appeared quite organized, able to arrange 
appointments related to her work and her visa status, as well as 
find more information about the logistics of continuing care in 
___. 

Given her high risk of recurrence of psychotic symptoms, she 
will require continued outpatient follow-up and medication 
compliance. 

3. SUBSTANCE USE DISORDERS:
#) Patient did not have history of substance use disorders

4. MEDICAL
#) There were no medical issues that arose during 
hospitalization. 
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was a bit isolative, 
preferring to spend her time alone in her room, but was seen in 
the milieu at times. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family [mother] was involved in the patients’ 
treatment and discharge planning, and was provided with the 
opportunity to discuss the patient’s diagnosis and treatment 
with the primary treatment team. The patient’s mother was 
supportive of the patient’s treatment and aftercare plan. She 
was in agreement to stay with her daughter from day of discharge 
until they were both able to take the same flight back to ___ 
in approximately one week. 
 
#) INTERVENTIONS
- Medications: Olanzapine and Lorazepam 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Follow-up in ___, 
involvement with patient's mother
- ___: Encouraged importance of continued 
aftercare planning
- Guardianships: Not applicable
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting olanzapine and lorazepam, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.

Olanzapine [Zyprexa]
Benefits: Weight gain, Controlling agitation, mood 
stabilization, maintaining response in schizophrenia
Risks: Increased risk for diabetes, dizziness, sedation, 
orthostatic hypotension, tardive dyskinesia [rare], neuroleptic 
malignant syndrome [rare], seizures [rare]

Lorazepam [Ativan]
Benefits: decreased anxiety, decreased agitation, decreased 
sleep, tx of catatonia 
Risks: Headaches, confusion, ataxia, paradoxical excitement  
 
RISK ASSESSMENT & PROGNOSIS
 
On presentation the patient was evaluated and felt to be unable 
to care for herself in the community due to her ongoing 
disorganized thinking, delusions, and erratic behavior. From a 
self-harm perspective, she denied suicidal ideation or homicidal 
ideation; however, her ongoing psychosis, medication 
non-compliance, and lack of outpatient treaters placed her at 
elevated risk of harm to self. 

During hospitalization, we addressed her psychosis and 
medication non-compliance by starting her on olanzapine and 
lorazepam in addition to psychotherapeutic interventions. We 
were able to assist the patient with arranging for aftercare in 
___ [though the patient will need to present in person 
to the clinics to set up a definitive appointment].  

Finally, the patient is being discharged with many protective 
risk factors, including lack of suicidal ideation, good 
problem-solving skills, lack of substance use history, and sense 
of responsibility to her family.  Overall, the patient is not at 
an acutely elevated risk of self-harm nor danger to others due 
to acutely decompensated psychiatric illness. Our prognosis of 
the patient is guarded; it is reassuring that the onset of her 
psychotic symptoms appears early enough that she still has a 
fair amount of insight and reality-testing, though she will need 
close follow-up, outpatient support, and continued 
medication-compliance to ensure her success on discharge. From a 
statistical standpoint, she is a high risk for recurrence of 
psychotic symptoms vs. a singular episode of psychosis. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Lorazepam 0.5 mg PO TID  
2.  OLANZapine 7.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 
MDD by history
OCD by history

 
Discharge Condition:
On day of discharge, Ms. ___ was in good spirits. She was 
future-oriented to go back to ___ with her mother. She has 
several appointments with BU and also with her visa status, 
which she was able to organize herself while she was on the 
unit. She was counseled about the importance of continued 
outpatient follow-up and medication-adherence. Both her and her 
mother were encouraged to seek additional supports via emergency 
services if her psychiatric condition were to worsen. 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___